US05432267
In 30 ml of dried methylene chloride was dissolved 3.75 g of benzyl N-t-butoxycarbonyl-D-serine, and 1.23 ml of pyridine, 1.86 g of 4-dimethylaminopyridine, and 4.09 g of diphenyl phosphorochloridate were successively added thereto at room temperature, followed by stirring at that temperature for 3 hours. The reaction mixture was washed successively with 1N hydrochloric acid and a saturated sodium chloride aqueous solution. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: 2% acetone-containing chloroform) to obtain 5.38 g of benzyl N-t-butoxycarbonyl-O-diphenylphosphono-D-serine as a white solid.

reactant | benzyl N-t-butoxycarbonyl-D-serine | 3.75 g | C(C1=CC=CC=C1)N([C@H](CO)C(=O)O)C(=O)OC(C)(C)C | C15H21NO5
reactant | pyridine | 1.23 ml | N1=CC=CC=C1 | C5H5N
reactant | diphenyl phosphorochloridate | 4.09 g | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)(=O)Cl | C12H10ClO3P
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.86 g | CN(C1=CC=NC=C1)C | C7H10N2
product | benzyl N-t-butoxycarbonyl-O-diphenylphosphono-D-serine | 5.38 g | C(C1=CC=CC=C1)N([C@H](COP(=O)(OC1=CC=CC=C1)OC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C27H30NO8P
